Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C@:4]([O:3])([H:5])[C:6]([H:7])([H:8])[H:9],1.60359453057
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2],6.51053537194
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14],1.44798328259
[H:1][C:2]([C:3]([H:4])([H:5])[O:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]1([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.0116731057897
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-1.51776454387
[O:1]=[C:2][C:7]([C:4](=[C:3])[O:5][H:6])([H:8])[H:9]>>[O:1]=[C:2]1[C:3][C:4]([O:5][H:6])[C:7]1([H:8])[H:9],-2.53339410911
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],3.82676609245
[O:1]=[C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.83817499886
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],1.82237459583
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])(=[C:6]=[C:10]([H:11])[C:13]([H:14])[H:15])[H:16].[H:1][C:2]([H:3])[C:7]([H:8])([H:9])[H:12],3.88349297599
[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]#[C:5][C:6]([H:7])[O:8][H:9].[H:4],2.20483582946
[O:1]=[C:2]([C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2][C:10]([H:11])([H:12])[H:13],0.87624571537
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4],3.78094926244
[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10],-1.66475875097
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.73092078248
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]([C:2]([H:3])[C:11]([H:12])([H:13])[H:14])([H:4])([H:6])[H:10].[C:5]=[C:7]([H:8])[H:9],1.04662024823
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:2](\[O:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1],4.77817594601
[H:1][C:2]=[C:3]([H:4])[C:5][O:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.15229042454
[C:7]([H:8])[H:9].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.16990453164
[C:3](=[C:4](\[H:5])[O:6][H:7])\[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.0144017602999975
[C:1]#[C:2][C:3]([O:4][O:5][H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][O:5][H:6])=[C:7][H:8].[H:9],5.06261398179
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.85130612925
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6]([H:7])([H:8])[O:9][H:10],3.41523659328
[H:5].[O:1]=[C:2]([C:3](=[C:4])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.455777450209999
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.83204064889
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[O:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],0.00149363499986
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11],4.11595860561
[H:1][C:2]=[C:3]([C:4]#[C:5])[O:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-5.30057951487
